US04670439
7-{3-{4-[(4-Chlorophenyl)-methyl]-1-piperazinyl}-propoxy}-4-hydroxymethyl-3-methyl-2H-1-benzopyran-2-one
A mixture of 1.7 g. (3 mmol) 7-{3-{4-[(4-chlorophenyl)-methyl]-1-piperazinyl}-propoxy}-3-methyl-2H-1-benzopyran-2-one-4-carboxylic acid dihydrochloride, 0.98 g. (8.7 mmol) anhydrous triethylamine and 20 ml. anhydrous tetrahydrofuran is stirred for 30 minutes at ambient temperature. The reaction mixture is then cooled and a solution of 0.38 g. (3.5 mmol) ethyl chloroformate and 10 ml. anhydrous tetrahydrofuran added dropwise thereto at an internal temperature of from -5° to -10° C. The reaction mixture is allowed to react for 30 minutes at -5° C. and subsequently the precipitated triethylamine hydrochloride is filtered off with suction with the exclusion of moisture. The filtrate is added dropwise at +10° C. to a suspension of 93 mg. (2.5 mmol) sodium borohydride and 1.5 ml. water. The reaction mixture is now stirred for 2 hours at ambient temperature, subsequently evaporated in a vacuum and the residue mixed with a mixture of ice and sodium hydrogen carbonate solution. It is then extracted several times with ethyl acetate and the extract is dried with anhydrous sodium sulphate and finally evaporated. After recrystallisation from ethanol, there is obtained 0.84 g. (59% of theory) of base; m.p. 135° C.; dihydrochloride m.p. 241° C., after recrystallisation from methanol.

reactant | 7-{3-{4-[(4-chlorophenyl)-methyl]-1-piperazinyl}-propoxy}-3-methyl-2H-1-benzopyran-2-one-4-carboxylic acid dihydrochloride | 3 mmol | Cl.Cl.ClC1=CC=C(C=C1)CN1CCN(CC1)CCCOC1=CC2=C(C(=C(C(O2)=O)C)C(=O)O)C=C1
reactant | triethylamine | 8.7 mmol | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 3.5 mmol | ClC(=O)OCC | C3H5ClO2
reactant | sodium borohydride | 2.5 mmol | [BH4-].[Na+]
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-{3-{4-[(4-Chlorophenyl)-methyl]-1-piperazinyl}-propoxy}-4-hydroxymethyl-3-methyl-2H-1-benzopyran-2-one | ClC1=CC=C(C=C1)CN1CCN(CC1)CCCOC1=CC2=C(C(=C(C(O2)=O)C)CO)C=C1 | C25H29ClN2O4
